US05683963
To a solution of (2R, 3R, 4R, 5S)-6-acetyl-2-hydroxymethyl-3,4-diacetoxy-1-oxa-6,8-diazaspiro (4,4) nonane-7, 9 dione (300 mg, 0.87 mm) and pyridine (0.14 ml, 1.74 mm) in dichloromethane (4 ml) was added at -15° C. (salt-ice bath) trifluoromethylsulfonic anhydride (0.26 ml, 1.52 mm). The resulting mixture is stirred at the same temperature for 1 hour, then diluted with ethylacetate and washed with water, brine, dried and evaporated to dryness. The crude product is purified by thin-layer chromatography to give (2R, 3R, 4R, 5S)-6-acetyl-2-trifluoromethylsulfonyloxymethyl-3,4-diacetoxy-1-oxa-6,8-diazaspiro (4,4)nonane-7, 9-dione (370 mg) as a hygroscopic foam.

reactant | (2R, 3R, 4R, 5S)-6-acetyl-2-hydroxymethyl-3,4-diacetoxy-1-oxa-6,8-diazaspiro (4,4) nonane-7, 9 dione | 300 mg | C(C)(=O)N1[C@]2([C@@H]([C@@H]([C@H](O2)CO)OC(C)=O)OC(C)=O)C(NC1=O)=O | C13H16N2O9
reactant | pyridine | 0.14 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethylsulfonic anhydride | 0.26 ml | FC(F)(F)S(=O)(=O)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | (2R, 3R, 4R, 5S)-6-acetyl-2-trifluoromethylsulfonyloxymethyl-3,4-diacetoxy-1-oxa-6,8-diazaspiro (4,4)nonane-7, 9-dione | 370 mg | C(C)(=O)N1[C@]2([C@@H]([C@@H]([C@H](O2)COS(=O)(=O)C(F)(F)F)OC(C)=O)OC(C)=O)C(NC1=O)=O | C14H15F3N2O11S
